US04006136
Trimethyl cis-3-Heptene-1,1,7-tricarboxylate (III, (a) = CH=CH, p = 3, R = CH3 and R6 = CH3)
In the same manner but using trimethyl 3-hexyne-1,1,6-tricarboxylate or trimethyl 3-octyne-1,1,8-tricarboxylate, trimethyl 3-hexene-1,1,6-tricarboxylate and trimethyl 3-octene-1,1,8-tricarboxylate, identical to the same compounds described in Example 80, are obtained.

reactant | trimethyl 3-hexyne-1,1,6-tricarboxylate | C(CC#CCCC(=O)OC)(C(=O)OC)C(=O)OC | C12H16O6
reactant | trimethyl 3-octyne-1,1,8-tricarboxylate | C(CC#CCCCCC(=O)OC)(C(=O)OC)C(=O)OC | C14H20O6
reactant | trimethyl 3-hexene-1,1,6-tricarboxylate | C(CC=CCCC(=O)OC)(C(=O)OC)C(=O)OC | C12H18O6
reactant | trimethyl 3-octene-1,1,8-tricarboxylate | C(CC=CCCCCC(=O)OC)(C(=O)OC)C(=O)OC | C14H22O6
product | Trimethyl cis-3-Heptene-1,1,7-tricarboxylate | C(C\C=C/CCCC(=O)OC)(C(=O)OC)C(=O)OC | C13H20O6
